US04124704
A solution containing 11.1 g. (0.028 mole) of 5-cyanomethyl-2,7-dibromo-3-phenylbenzofuran, 10.7 g. (0.11 mole) of dinitrogen tetroxide, 13.9 g. (0.11 mole) of cyclohexene-4-carboxylic acid and 1 g. of iodine in 500 ml. of chloroform is stirred at room temperature for 16 hours. An additional 13.9 g. of cyclohexene-4-carboxylic acid and 10.7 g. of dinitrogen tetroxide are added, and stirring is continued for 16 hours. The reaction is then treated with 500 ml. of 10 percent sodium thiosulfate. The phases are separated, and the organic phase is washed thrice with 250 ml. portions of saturated sodium bicarbonate, once with 250 ml. of 3N hydrochloric acid and dried. Evaporation gives 7-bromo-5-cyanomethyl-2-nitro-3-phenylbenzofuran as a yellow solid, recrystallized from ethyl acetate-hexane to give a sample for analysis.

reactant | 5-cyanomethyl-2,7-dibromo-3-phenylbenzofuran | 0.028 mole | C(#N)CC=1C=C(C2=C(C(=C(O2)Br)C2=CC=CC=C2)C1)Br | C16H9Br2NO
reactant | dinitrogen tetroxide | 0.11 mole | [N+](=O)([N+](=O)[O-])[O-] | N2O4
reactant | cyclohexene-4-carboxylic acid | 0.11 mole | C1=CCC(CC1)C(=O)O | C7H10O2
reactant | iodine | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-bromo-5-cyanomethyl-2-nitro-3-phenylbenzofuran | BrC1=CC(=CC=2C(=C(OC21)[N+](=O)[O-])C2=CC=CC=C2)CC#N | C16H9BrN2O3
